Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Aspirin / Sulfa (Sulfonamide Antibiotics) / Latex 
/ banana / kiwi / peanut / clindamycin / salicylates
 
Attending: ___.
 
Chief Complaint:
shortness of breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ history of
asthma, PCOS, hypertension, G6PD, and PTSD, presenting with
worsening shortness of breath with concern for asthma
exacerbation.

Of note, patient recently presented to ___ ___ with
worsening shortness of breath and coughing. Patient stated this
felt like her prior asthma exacerbations. Given documented
minimal wheezing on exam and with normal O2 saturation, she was
treated with duonebs as well as prednisone. She was discharged 
on
prednisone 50 mg daily x 5 days. 

Patient states that she never felt better after being discharged
from the ___. She completed her 5 day course of
prednisone 50 mg daily ___. She has continued to have 
worsening
shortness of breath, was told by co-workers this morning that 
she
was gasping for air and he could hear her audibly wheezing.
States she has been adherent to her home Advair inhalers, has
been using her albuterol rescue inhaler every couple of minutes
without relief. Today has noted new worsening productive cough
with phlegm. Denies any fevers or chills. Denies any sore throat
or rhinorrhea.

In the ED, initial VS were: T 98.1 HR 106 BP 175/96 RR 24 O2
100%RA

On Exam:
Gen: Moderate distress, unable to speak in full sentences, 
severe
cough
CV: RRR, normal S1/S2
Pulm: +accessory muscle use, diffuse end expiratory wheezing,
diminished breath sounds R lung base, bibasilar crackles

Labs notable for: 
- WBC 8.1, Hb 11.7, PLT 280
- Na 142, K 3.8, BUN 5, Cr 0.5
- VBG 7.41/___
- Flu: Negative
- UA: Moderate leuks, negative nitrite, 2 WBC, few bacteria  

Imaging showed:
CXR ___:
1. Slightly increased interstitial opacities in the right lower
lung field may represent bronchovascular crowding secondary to
decreased inspiratory effort however an early infectious or
inflammatory process cannot be excluded, particularly in this
patient with productive cough.

Consults: None

Patient received:
___ 07:51 IH Albuterol 0.083% Neb Soln
___ 07:51 IH Ipratropium Bromide Neb 1 NEB  
___ 08:09 IH Albuterol 0.083% Neb Soln 1 NEB 
___ 08:09 IH Ipratropium Bromide Neb 1 NEB  
___ 08:09 PO Ondansetron ODT 4 mg 
___ 09:51 IV Magnesium Sulfate  
___ 09:51 IV MethylPREDNISolone Sodium Succ 125 mg 
___ 09:53 IH Albuterol 0.083% Neb Soln 1 NEB 
___ 09:53 IH Ipratropium Bromide Neb 1 NEB   
___ 10:53 IV Magnesium Sulfate 2 gm 
___ 11:09 IV Azithromycin  
___ 13:10 IV Azithromycin 500 mg 
___ 14:22 IV CefTRIAXone   
___ 14:29 IV CefTRIAXone 2 g  
___ 16:16 PO/NG Spironolactone 100 mg 
___ 16:16 IVF  LR  
___ 17:39 IVF  LR 1000 mL 
___ 20:21 PO/NG Acetaminophen 1000 mg 
___ 20:38 PO TraMADol 50 mg 

Transfer VS were: T 98.9 HR 114, BP 158/89 RR 18 O2 100%RA

On arrival to the floor, patient confirms the above
history. States that at present she does not feel short of
breath, however endorsing frequent coughing (with occasional
brownish phlegm).

 
Past Medical History:
Asthma
Obstructive sleep apnea
PCOS (polycystic ovarian syndrome)       
Psychosocial stressors, PTSD
Iron deficiency anemia                              
G6PD deficiency
Headaches/Migraines
Menorrhagia
Atypical squamous cells of undetermined significance (ASCUS) on 
___ smear of cervix
h/o STD, Herpes simplex vulvovaginitis

 
Social History:
___
Family History:
- Sister w/ arrhythmia on rhythm control - unable to specify 
further 
- brother with cardiomyopathy
- low potassium in family
- Hypertension
- Malignancy (sarcoma in mother, leukemia in father)
- Depression
- Obesity
- T2DM
- Keratoconus (multiple family members)
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS: T 98.2 BP 166/98 HR 118 RR 18 O2 97%RA
Gen: Intermittently coughing, however speaking in full sentences
HEENT: NC/AT, PERRLA, EOMI
Lungs: Decreased breath sounds throughout, however with good air
movement. Diffuse expiratory wheezing throughout all lung 
fields.
CV: Tachycardic, regular rhythm, no murmurs, rubs, or gallops
Abdomen: Soft, NT/ND.  Normoactive bowel sounds.  No evidence of
organomegaly
Neuro: CN II-XII intact. No focal neurological deficits.
Extremities: 2+ peripheral pulses, no C/C/E

DISCHARGE PHYSICAL EXAM:
========================
VS: ___ 0714 Temp: 98.2 PO BP: 130/88 HR: 91 RR: 20 O2 sat:
98% O2 delivery: RA 
Gen: Young F in NAD. Appears stated age. Intermittently coughing
HEENT: NC/AT, EOMI
Lungs: CTABL, no wheezes appreciated. Breathing comfortably on 
RA
without use of accessory muscles. 
CV: RRR, no murmurs, rubs, or gallops
Abdomen: Soft, NT/ND. NABS.  No evidence of organomegaly
Neuro: No focal neurological deficits. A&Ox3. Moving all
extremities.
Extremities: warm and well-perfused, no edema

 
Pertinent Results:
ADMISSION LABS:
===============
___ 08:08AM   HCG-<5
___ 08:08AM   CALCIUM-9.5 PHOSPHATE-4.6* MAGNESIUM-1.7
___ 08:08AM   GLUCOSE-107* UREA N-5* CREAT-0.5 SODIUM-142 
POTASSIUM-3.8 CHLORIDE-104 TOTAL CO2-22 ANION GAP-16
___ 09:07AM URINE  MUCOUS-FEW*
___ 09:07AM URINE  RBC-1 WBC-2 BACTERIA-FEW* YEAST-NONE 
EPI-2
___ 09:07AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-MOD*
___ 09:07AM URINE  COLOR-Straw APPEAR-Hazy* SP ___
___ 09:07AM URINE  UCG-NEGATIVE
___ 12:06PM   PLT COUNT-280
___ 12:06PM   NEUTS-45.7 ___ MONOS-12.2 EOS-3.2 
BASOS-0.4 IM ___ AbsNeut-3.72 AbsLymp-3.12 AbsMono-0.99* 
AbsEos-0.26 AbsBaso-0.03
___ 12:06PM   WBC-8.1 RBC-4.59 HGB-11.7 HCT-38.1 MCV-83 
MCH-25.5* MCHC-30.7* RDW-13.5 RDWSD-40.3
___ 02:13PM   ___ PO2-49* PCO2-39 PH-7.41 TOTAL CO2-26 
BASE XS-0 COMMENTS-PERIPHERAL
___ 02:25PM OTHER BODY FLUID  FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE

MICROBIOLOGY:
=============
__________________________________________________________
___ 7:57 am SPUTUM      Source: Expectorated. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      ___ PMNs and >10 epithelial cells/100X field. 
      Gram stain indicates extensive contamination with upper 
respiratory
      secretions. Bacterial culture results are invalid. 
      PLEASE SUBMIT ANOTHER SPECIMEN. 

   RESPIRATORY CULTURE (Final ___: 
      TEST CANCELLED, PATIENT CREDITED. 
__________________________________________________________
___ 2:25 pm Rapid Respiratory Viral Screen & Culture
      Source: Nasopharyngeal swab. 

                            **FINAL REPORT ___

   Respiratory Viral Culture (Final ___: 
      No respiratory viruses isolated. 
      Culture screened for Adenovirus, Influenza A & B, 
Parainfluenza type
      1,2 & 3, and Respiratory Syncytial Virus.. 
      Detection of viruses other than those listed above will 
only be
      performed on specific request. Please call Virology at 
___
      within 1 week if additional testing is needed. 

   Respiratory Viral Antigen Screen (Final ___: 
      Negative for Respiratory Viral Antigen. 
      Specimen screened for: Adeno, Parainfluenza 1, 2, 3, 
Influenza A, B,
      and RSV by immunofluorescence. 
      Refer to respiratory viral culture and/or Influenza PCR 
(results
      listed under "OTHER" tab) for further information.. 
__________________________________________________________
___ 11:05 am BLOOD CULTURE      SET#2. 

   Blood Culture, Routine (Pending):    No growth to date. 
__________________________________________________________
___ 11:02 am BLOOD CULTURE      SET#1. 

   Blood Culture, Routine (Pending):    No growth to date. 
__________________________________________________________
___ 9:07 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

IMAGING:
========
___ CXR
FINDINGS:  
When compared to most recent prior chest radiograph, there is 
slightly 
increased interstitial opacity projecting over the right lower 
lung field 
which appears more conspicuous .  This may represent crowding of 
pulmonary 
vasculature due to decreased inspiratory effort however an early 
infectious or inflammatory process cannot be excluded.  There is 
otherwise no other areas of focal consolidation.  There is no 
pleural effusion or pneumothorax.  The cardiomediastinal 
silhouette is within normal limits.  There is no acute osseous 
abnormality or free intraperitoneal air under the diaphragm. 
  
IMPRESSION: 
1. Slightly increased interstitial opacities in the right lower 
lung field may represent bronchovascular crowding secondary to 
decreased inspiratory effort however an early infectious or 
inflammatory process cannot be excluded, particularly in this 
patient with productive cough. 

DISCHARGE LABS:
===============
(from day prior, no labs obtained on day of discharge)
___ 06:50AM BLOOD WBC-15.1* RBC-4.91 Hgb-12.8 Hct-40.0 
MCV-82 MCH-26.1 MCHC-32.0 RDW-13.2 RDWSD-38.9 Plt ___
___ 06:50AM BLOOD Plt ___
___ 06:50AM BLOOD Glucose-84 UreaN-10 Creat-0.6 Na-142 
K-4.7 Cl-105 HCO3-25 AnGap-12
___ 06:50AM BLOOD Calcium-9.5 Phos-4.6* Mg-2.___RIEF HOSPITAL SUMMARY:
========================
Ms. ___ is a ___ history of asthma, PCOS, hypertension, G6PD 
deficiency, and PTSD, who recently presented to ___ 
with worsening shortness of breath treated with prednisone 
burst, now re-presenting with worsening shortness of breath and 
wheezing, admitted with asthma exacerbation and community 
acquired pneumonia. 

TRANSITIONAL ISSUES:
====================
[ ] Patient hypertensive and with headaches while hospitalized. 
Started on verapamil 120mg qd with some improvement in blood 
pressure and headaches. Will require close-follow up, especially 
once she completes the steroid taper as it was felt her steroids 
contributed to her hypertension. 
[ ] Patient discharged on steroid taper as follows: 50mg qd x2d, 
40mg x2d, 30mg x2d, 20mg x2d, and 10mg x2d. PCP should reassess 
respiratory symptoms and determine if a longer taper is 
necessary.
[ ] Pending tests: ___ Blood cultures x2- no growth to date.
[ ] Patient was tachycardic during admission to 100-120s. Was 
thought to be secondary to frequent albuterol use prior to 
admission and ultimately improved during the majority of her 
stay. Low risk for DVT/PE per Wells criteria and other vital 
signs remained stable. Please follow up at next PCP ___.
[ ] Patient had a significant headache during admission, with a 
known history of migraines. She required IV ketorolac, PO 
fioricet, and IV Compazine during admission. She was discharged 
with PO Compazine and ibuprofen. Further headache management 
should be considered in the outpatient setting. 

ACUTE ISSUES:
===============
#Asthma exacerbation
#?CAP 
Patient has a history of asthma and has approximately 5 
exacerbations per year with no prior intubations. She recently 
presented to ___ on ___ with worsening dyspnea, s/p 
inhalers and prednisone 50mg x5d completed ___ but without 
subjective improvement. She presented to ___ ED with severe 
dyspnea with diffuse wheezing on exam. She received 
methylprednisolone 125mg x1 in the ED and then was started on 
prednisone 60mg qd. There was question of new RLL infiltrate on 
CXR on admission concerning for pneumonia, which could possibly 
have been the trigger for her asthma exacerbation. She was 
afebrile and without leukocytosis on admission but did have a 
productive cough. Sputum culture was contaminated by upper 
respiratory flora. Influenza PCR was negative. Respiratory viral 
panel and culture were negative. She completed a 5-day course of 
Ceftriaxone and azithromycin for empiric CAP treatment prior 
discharge. There was some concern for PE in this young female 
with wheezing and tachycardia but had low risk per Wells 
criteria (see below), with ultimate improvement in her 
tachycardia for the majority of her hospitalization. She was 
continued on home Advair and received duonebs q6h. She was 
switched from her home albuterol to levalbuterol nebs q2h:prn 
given tachycardia, but was switched back to albuterol on 
discharge. Patient was discharged on steroid taper for 10 days 
(50mg qd x2d, 40 x2d, 30 x2d, 20 x2d, 10 x2d) and will follow up 
with her PCP prior to the end of the taper to assess symptom 
resolution. She also received guaifenison for cough. 

#HTN 
Patient hypertensive to 180s on admission. She is only on 
spironolactone at home. She was previously hospitalized in ___ 
for wide-ranging SBP to 180-190s, requiring nifedipine and was 
started on labetalol at that time. Neuro workup at that time 
with negative CTA/CTV. Subsequently had BP med overdose 
requiring dopamine in MICU during prior hospitalization. During 
hospitalization, her hypertension was felt to be related to 
steroids. She was continued on home spironolactone and received 
hydralazine prn. She was also started on verapamil 120mg qd for 
both hypertension and headache. BPs were improved with addition 
of verapamil and were 130-150s/70-90s on day of discharge. At 
her PCP follow up, please evaluate her blood pressures (given 
the prednisone will be tapering) and determine if Verapamil 
should be continued.

#Tachycardia 
Patient tachycardia to the 90-120s on admission. EKG showed 
sinus tachycardia. Differential included ___ albuterol (patient 
endorsed using albuterol frequently prior to admission) vs PE. 
There was lower suspicion for PE manifested as tachycardia and 
wheezing given recent high frequency of albuterol nebs and low 
risk per Wells criteria. Patient had no recent travel or 
immobilization, no history of DVT/PE, and no known 
hypercoagulable state. Her tachycardia improved during the 
majority of her hospitalization.

#Headache 
Patient presented with right sided headache since ED, no focal 
neurological deficits. Patient has history of migraines. No 
improvement with APAP, tramadol or ibuprofen so patient received 
ketorolac and Fioricet as well as IV Compazine as needed. 

CHRONIC ISSUES:
===============
#Hypokalemia - Continued on home K supplementation 

#PCOS - Continued on home spironolactone 100mg PO BID

#OSA - History of CPAP previously non-adherent. 

#CODE: Full (presumed)
#CONTACT:
Name of health care proxy: ___ 
Relationship: sister 
Phone number: ___ 

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Vitamin D ___ UNIT PO 1X/WEEK (WE) 
2. Albuterol Inhaler 1 PUFF IH Q6H:PRN Shortness of breath 
3. Spironolactone 100 mg PO BID 
4. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN wheeze 
5. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
6. Vitamin D ___ UNIT PO DAILY 
7. Potassium Chloride 20 mEq PO TID 
8. Prenatal Vitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild NOT relieved by 
Acetaminophen 
RX *ibuprofen 600 mg 1 tablet(s) by mouth four times a day Disp 
#*12 Tablet Refills:*0 
2.  PredniSONE 50 mg PO DAILY Duration: 2 Doses 
Start: Tomorrow - ___, First Dose: First Routine 
Administration Time 
This is dose # 1 of 5 tapered doses
RX *prednisone 10 mg 5 tablet(s) by mouth once a day Disp #*10 
Tablet Refills:*0 
3.  PredniSONE 40 mg PO DAILY Duration: 2 Doses 
Start: After 50 mg DAILY tapered dose 
This is dose # 2 of 5 tapered doses
RX *prednisone 10 mg 4 tablet(s) by mouth once a day Disp #*8 
Tablet Refills:*0 
4.  PredniSONE 30 mg PO DAILY Duration: 2 Doses 
Start: After 40 mg DAILY tapered dose 
This is dose # 3 of 5 tapered doses
RX *prednisone 10 mg 3 tablet(s) by mouth once a day Disp #*6 
Tablet Refills:*0 
5.  PredniSONE 20 mg PO DAILY Duration: 2 Doses 
Start: After 30 mg DAILY tapered dose 
This is dose # 4 of 5 tapered doses
RX *prednisone 10 mg 2 tablet(s) by mouth once a day Disp #*4 
Tablet Refills:*0 
6.  PredniSONE 10 mg PO DAILY Duration: 2 Doses 
Start: After 20 mg DAILY tapered dose 
This is dose # 5 of 5 tapered doses
RX *prednisone 10 mg 1 tablet(s) by mouth once a day Disp #*2 
Tablet Refills:*0 
7.  Prochlorperazine 10 mg PO Q6H:PRN nausea 
RX *prochlorperazine maleate [Compazine] 10 mg 1 tablet(s) by 
mouth four times a day Disp #*12 Tablet Refills:*0 
8.  Verapamil SR 120 mg PO Q24H 
RX *verapamil [Calan SR] 120 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
9.  Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN wheeze  
10.  Albuterol Inhaler 1 PUFF IH Q6H:PRN Shortness of breath  
11.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
12.  Potassium Chloride 20 mEq PO TID  
13.  Prenatal Vitamins 1 TAB PO DAILY  
14.  Spironolactone 100 mg PO BID  
15.  Vitamin D ___ UNIT PO DAILY  
16.  Vitamin D ___ UNIT PO 1X/WEEK (WE)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Asthma exacerbation
Community acquired pneumonia

Secondary Diagnosis:
Hypertension
Tachycardia
Headache
Hypokalemia
Polycystic ovarian syndrome
Obstructive sleep apnea

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure to care for you at the ___ 
___.  

Why did you come to the hospital?  
- You came to the hospital because you were having difficulty 
breathing. 

What did you receive in the hospital?  
- You received steroids to treat an asthma exacerbation.
- You received antibiotics to treat any infection in lungs. 
- You received medications to treat your headache.
- You were started on a new blood pressure medication because 
your blood pressure was high.

What should you do once you leave the hospital?  
- You should take all of your medications as prescribed (see 
below).
- You should attend all of your scheduled outpatient 
appointments.  

We wish you the best!  
Your ___ Care Team  

 
Followup Instructions:
___